US06384080B1
To a solution of 3-hydroxycyclopentyl benzoate (630 mg) in anhydrous tetrahydrofuran (15 mL) were added diphenylphosphoryl azide (925 mg), diethyl azodicarboxylate (585 mg) and triphenylphosphine (881 mg). After stirring for 2 hours at ambient temperature, the mixture was partitioned between ethyl acetate and water. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (10:1) to give 3-azidocyclopentyl benzoate as pale yellow oil (531 mg).

reactant | 3-hydroxycyclopentyl benzoate | 630 mg | C(C1=CC=CC=C1)(=O)OC1CC(CC1)O | C12H14O3
reactant | diphenylphosphoryl azide | 925 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | diethyl azodicarboxylate | 585 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 881 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-azidocyclopentyl benzoate | 531 mg | C(C1=CC=CC=C1)(=O)OC1CC(CC1)N=[N+]=[N-] | C12H13N3O2
